US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-2-hydroxy-pyrido[3,2-h]chroman
The title compound was prepared following the procedure as in Example 18 from 3-(3-bromo-4,5-dimethoxyphenyl)-propenal (25 mg; 0.09 mmol) and 8-hydroxyquinoline (9 mg; 0.06 mmol) using morpholine (10 μl; 0.11 mmol) as base (yield: 34%). 1H NMR (acetone-d6): 8.85 (overlapping dd, J=1.8, 4.3 Hz; 1H), 8.20 (overlapping dd, J=1.8, 8.4 Hz; 1H), 7.47 (dd, J =4.1, 8.2 Hz, 1H), 7.34 (d, J=8.4 Hz) and 7.32 (d, J=8.4 Hz) (1H), 7.08 (d, J=2.1 Hz), 7.06 (d, J=2.1 Hz) and 7.05 (d, J=2.0 Hz) (2H), 6.98 (d, J=8.8 Hz) and 6.95 (d, J=8.8 Hz) (1H), 5.91 (t, J=2.7 Hz) and 5.70-5.72 (m) (1H), 4.50 (overlapping dd, J=6.3, 10.7 Hz; 1H), 3.85, 3.82, 3.81 and 3.80 (s each, 6H), 2.50-2.56 (m) and 2.20-2.37 (m) (2H).

reactant | 3-(3-bromo-4,5-dimethoxyphenyl)-propenal | 0.09 mmol, 25 mg | BrC=1C=C(C=C(C1OC)OC)C=CC=O | C11H11BrO3
reactant | 8-hydroxyquinoline | 0.06 mmol, 9 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | morpholine | 0.11 mmol, 10 μl | N1CCOCC1 | C4H9NO
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-2-hydroxy-pyrido[3,2-h]chroman | yield: 34% | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)C=CC=N3)O | C20H18BrNO4
